US07087626B2
Acetic Acid 2-oxo-2-phenyl-ethyl ester
A solution of 2-hydroxyaceto-phenone (10 g, 73.4 mmol), pyridine (17.4 g, 220.2 mmol), dichloromethane (734 mL), 3 crystals of 4-dimethylaminopyridine is cooled to −78° C. To this solution is added acetic anhydride (13.9 mL, 146.9 mmol) then warmed to room temperature and stirred for 18 h. The mixture is washed with water (200 mL) and brine (200 mL) then dried over sodium sulfate. The mixture is filtered and concentrated in vacuo to yield the title compound, 13 g (99%), as a colorless liquid.

reactant | 2-hydroxyaceto-phenone | 73.4 mmol, 10 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | pyridine | 220.2 mmol, 17.4 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 146.9 mmol, 13.9 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 734 mL | ClCCl | CH2Cl2
product | Acetic Acid 2-oxo-2-phenyl-ethyl ester | O=C(COC(C)=O)C1=CC=CC=C1 | C10H10O3
